US05053409
Synthesis of 2-(1-homopiperazinyl)-5-n-propylbenzenesulfonic acid (Compound No. 86)
According to the same method as in Example 2, from 0.61 g of 2-fluoro-5-n-propylbenzenesulfonic acid and 2.80 g of homopiperazine, 0.31 g (yield: 37.2%) of the above title product having the following physical property was obtained.

reactant | 2-fluoro-5-n-propylbenzenesulfonic acid | 0.61 g | FC1=C(C=C(C=C1)CCC)S(=O)(=O)O | C9H11FO3S
reactant | homopiperazine | 2.80 g | N1CCNCCC1 | C5H12N2
product | 2-(1-homopiperazinyl)-5-n-propylbenzenesulfonic acid | 0.31 g, yield: 37.2% | N1(CCNCCC1)C1=C(C=C(C=C1)CCC)S(=O)(=O)O | C14H22N2O3S
